US09328112B2
tert-butyl(2-bromo-4,5-difluorophenyl)carbamate
To a solution of 2-bromo-4,5-difluoroaniline (25.28 g, 122 mmol) in tetrahydrofuran (200 mL) was added di-tert-butyl dicarbonate (150 mL, 300 mmol) and 4-dimethylaminopyridine (2.97 g, 24.31 mmol) at room temperature. The solution was stirred at ambient temperature overnight, and concentrated. The residue was partitioned between ethyl acetate and brine. The organic phase was washed with brine, dried over MgSO4, filtered and concentrated to provide the title compound. MS (ESI+) m/z 308 (M+1)

reactant | 2-bromo-4,5-difluoroaniline | 122 mmol, 25.28 g | BrC1=C(N)C=C(C(=C1)F)F | C6H4BrF2N
reactant | di-tert-butyl dicarbonate | 300 mmol, 150 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 24.31 mmol, 2.97 g | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-butyl(2-bromo-4,5-difluorophenyl)carbamate | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)F)F)Br)=O | C11H12BrF2NO2
